US08865736B2
3-[5-Cyano-4-(4-methoxy-phenyl)-thiazol-2-ylmethoxy]-2,6-difluoro-benzamide
To a solution of 3-[5-bromo-4-(4-methoxy-phenyl)-thiazol-2-ylmethoxy]-2,6-difluoro-benzamide (0.20 g, 0.43 mmol) in pyridine (4.0 mL) was added CuCN (0.19 g, 2.19 mmol). The reaction mixture was heated to 150° C. in microwave for 2 h. After the completion of the reaction, pH was adjusted to 3-4 with 1N HCl solution and extracted with ethyl acetate (3×50 mL). The combined organics was washed with water, brine, dried (Na2SO4), filtered and concentrated. The crude residue was purified over silica gel (60-120 M, 45% EtOAc-Hexane) to get the desired product (0.02 g, 11%) as a brown solid. 1H NMR (DMSO-d6, 400 MHz): δ 3.79 (s, 3H), 5.67 (s, 2H), 7.16 (m, 3H), 7.42 (m, 1H), 7.88 (br s, 1H), 8.03 (d, J=8.80 Hz, 2H) and 8.19 (br s, 1H). MS ES+ (402.07), HPLC (method I) Rt=16.60 min.

reactant | 3-[5-bromo-4-(4-methoxy-phenyl)-thiazol-2-ylmethoxy]-2,6-difluoro-benzamide | 0.43 mmol, 0.20 g | BrC1=C(N=C(S1)COC=1C(=C(C(=O)N)C(=CC1)F)F)C1=CC=C(C=C1)OC | C18H13BrF2N2O3S
reactant | CuCN | 2.19 mmol, 0.19 g | C(#N)[Cu]
reactant | HCl | 1N | Cl | ClH
solvent | pyridine | 4.0 mL | N1=CC=CC=C1 | C5H5N
product | 3-[5-Cyano-4-(4-methoxy-phenyl)-thiazol-2-ylmethoxy]-2,6-difluoro-benzamide | 0.02 g, 11% | C(#N)C1=C(N=C(S1)COC=1C(=C(C(=O)N)C(=CC1)F)F)C1=CC=C(C=C1)OC | C19H13F2N3O3S
